US07410961B2
To a cooled (−78° C.) solution of LDA (1.5 M in cyclohexane, 41 mL, 61 mmol) in THF (150 mL) was added dropwise over 10 min tert-butyl 3,3-dimethoxycyclopentanecarboxylate (9.37 g, 40.7 mmol) in 25 mL of THF. The resulting mixture was stirred at −78° C. for 30 min, then was treated dropwise with 2-iodopropane (16.3 mL, 163 mmol). After stirring for an additional 10 min, the reaction mixture was permitted to warm to room temperature. After stirring overnight, the reaction mixture was diluted with ether and washed with brine. The ethereal layer was dried over anhydrous MgSO4, filtered, and concentrated. After storing the crude product under vacuum overnight, it was purified by MPLC (silica, 20% ethyl acetate/hexane) to give 8.32 g of tert-butyl 1-isopropyl-3,3-dimethoxycyclopentanecarboxylate (75%). 1H NMR (500 MHz, CDCl3) δ 3.21 (s, 3H), 3.18 (s, 3H), 2.56 (app d, J=14 Hz, 1H), 2.26 (m, 1H), 1.78-1.89 (m, 3

reactant | LDA | 61 mmol, 1.5 M, 41 mL | [Li+].CC(C)[N-]C(C)C
reactant | tert-butyl 3,3-dimethoxycyclopentanecarboxylate | 40.7 mmol, 9.37 g | COC1(CC(CC1)C(=O)OC(C)(C)C)OC | C12H22O4
reactant | 2-iodopropane | 163 mmol, 16.3 mL | IC(C)C | C3H7I
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | tert-butyl 1-isopropyl-3,3-dimethoxycyclopentanecarboxylate | 8.32 g, 75% | C(C)(C)C1(CC(CC1)(OC)OC)C(=O)OC(C)(C)C | C15H28O4
